US07087594B2
In 7.0 mL of ethyl acetate was dissolved 1.12 g of tert-butyl=1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-pyrrolidinylcarbamate, and 1.86 mL of 6 mol/L hydrochloric acid was added to the solution, after which the resulting mixture was heated under reflux for 1 hour. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the pH was adjusted to 10 with a 2 mol/L aqueous sodium hydroxide solution, and the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; chloroform:methanol=30:1 to 20:1) to obtain 0.38 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-pyrrolidinamine as a light-yellow oil.

reactant | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-pyrrolidinylcarbamate | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(CC2)NC([O-])=O
reactant | hydrochloric acid | 6 mol/L, 1.86 mL | Cl | ClH
reactant | water | O | H2O
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
solvent | ethyl acetate | 7.0 mL | C(C)(=O)OCC | C4H8O2
product | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-pyrrolidinamine | 0.38 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(CC2)N | C17H24N2OS
